US07531289B2
[13-1] One synthesis of 3,3-difluoro-2-trifluoromethyl-2,3,3a,4,5,6,7,7a-octahydrobenzofuran-2,3a-diol
In a nitrogen atmosphere at −5° C., 1000 ml of 2.6M n-butyllithium in hexane was added to a mixture of 224 g of 1,1,1,3,3,3-hexafluoro-2-propanol and 1000 g of tetrahydrofuran, followed by one hour of stirring at 5° C. Then 164 g of 2-chlorocyclohexanone was added at 5° C. The mixture was stirred for 10 hours, after which dilute hydrochloric acid was added to quench the reaction and neutralize the reaction mixture. Then 1200 g of a 10% aqueous solution of sodium hydroxide was added to the reaction mixture, from which an aqueous layer was separated. It was made acidic by adding 560 g of 20% dilute hydrochloric acid and combined with 1000 g of toluene, after which an organic layer was separated. The organic layer thus separated was concentrated and purified by recrystallization from hexane, obtaining 201 g of the product (yield 63%).

reactant | n-butyllithium | 2.6M, 1000 ml | C(CCC)[Li]
reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | 224 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | 2-chlorocyclohexanone | 164 g | ClC1C(CCCC1)=O | C6H9ClO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1000 g | O1CCCC1 | C4H8O
product | 3,3-difluoro-2-trifluoromethyl-2,3,3a,4,5,6,7,7a-octahydrobenzofuran-2,3a-diol | 201 g, yield 63% | FC1(C(OC2C1(CCCC2)O)(O)C(F)(F)F)F | C9H11F5O3
